US08871792B2
(R)-3-{N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-[3-(2-fluorophenyl)isoxazole-5-carbonyl]hydrazino}-2-hydroxypropionic Acid Isobutyl Ester
3-(2-fluorophenyl)isoxazole-5-carboxylic acid (15.4 mg, 74 μmol) and HATU (33.9 mg, 89 μmol) were stirred in DMA (0.5 mL, 5 mmol) for 10 minutes. (R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic acid ethyl ester (27.3 mg, 74 μmol) and DIPEA (38.9 μL, 223 μmol) were added, and the resulting mixture was stirred at room temperature for 1 hour. The mixture was then concentrated under reduced pressure, and the residue was dissolved EtOAc (20 mL) and washed with water (2×2 mL). The organic layer was dried over MgSO4, filtered, and concentrated. The product was then mixed with isobutyl alcohol (0.5 mL, 5 mmol) and 4.0 M HCl in 1,4-dioxane (93 μL, 372 mmol), and stirred at room temperature overnight. The mixture was concentrated under reduced pressure, and the residue was dissolved in 50% AcOH-water (1.5 ml), filtered, and purified by reverse phase preparative HPLC to yield the title compound (1.7 mg, purity 100%) as a TFA salt. MS m/z [M+H]+ calc'd for C30H28ClF2N3O5, 584.17. found 584.4.

reactant | 3-(2-fluorophenyl)isoxazole-5-carboxylic acid | 74 μmol, 15.4 mg | FC1=C(C=CC=C1)C1=NOC(=C1)C(=O)O | C10H6FNO3
reactant | HATU | 89 μmol, 33.9 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMA | 5 mmol, 0.5 mL | CC(=O)N(C)C | C4H9NO
reactant | (R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic acid ethyl ester | 74 μmol, 27.3 mg | C(C)OC([C@@H](CN(N)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)O)=O | C18H20ClFN2O3
reactant | DIPEA | 223 μmol, 38.9 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | isobutyl alcohol | 5 mmol, 0.5 mL | C(C(C)C)O | C4H10O
reactant | HCl | 4.0 M | Cl | ClH
reactant | 1,4-dioxane | 372 mmol, 93 μL | O1CCOCC1 | C4H8O2
product | (R)-3-{N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-[3-(2-fluorophenyl)isoxazole-5-carbonyl]hydrazino}-2-hydroxypropionic Acid Isobutyl Ester | 1.7 mg | C(C(C)C)OC([C@@H](CN(NC(=O)C1=CC(=NO1)C1=C(C=CC=C1)F)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)O)=O | C30H28ClF2N3O5
